US07122672B2
In a similar procedure, 3,8-dibromo-6-hydroxyquinoline was reacted with 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide to give 2-(3,8-dibromo-6-quinolinyloxy)-N-(4-methylpent-2-yn-4-yl) butyramide as a colourless gum, 1H NMR (CDCl3) δ: 1.07(3H, t); 1.59 (3H, s); 1.60(3H, s); 1.78(3H, s); 1.99–2.06(2H, m); 4.52(1H, t); 6.30(1H, s); 7.00(1H, m); 7.82(1H, dd); 8.21(1H, d); 8.88(1H, m).

reactant | 3,8-dibromo-6-hydroxyquinoline | BrC=1C=NC2=C(C=C(C=C2C1)O)Br | C9H5Br2NO
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide | BrC(C(=O)NC(C#CC)(C)C)CC | C10H16BrNO
product | 2-(3,8-dibromo-6-quinolinyloxy)-N-(4-methylpent-2-yn-4-yl) butyramide | BrC=1C=NC2=C(C=C(C=C2C1)OC(C(=O)NC(C#CC)(C)C)CC)Br | C19H20Br2N2O2
